US04781750
Preparation of 2-Cyano-4,4-Dimethyl-1-Oxido-3-Oxo-1-(2-Nitro-4-Chlorophenyl)-1-Pentene Lithium Salt
To a stirred slurry of 0.36 g of LiH in 15 ml of dry ether under N2 at room temperature was rapidly added a solution of 1.5 g of 2-cyano-4,4-dimethyl-1-hydroxy-3-oxo-1-(2-nitro-4-chlorophenyl)-1-pentene dissolved in 15 ml of dry ether. The reaction mixture turned brown and a precipitate formed with 5 min. Enough dry THF was added to dissolve the solid and the mixture allowed to stir overnight at ambient temperature. The reaction was filtered and the filtrate concentrated under reduced pressure to yield 1.25 g of product as a yellow solid, m.p. >230° C. (decomp.).

reactant | LiH | 0.36 g | [H-].[Li+]
reactant | 2-cyano-4,4-dimethyl-1-hydroxy-3-oxo-1-(2-nitro-4-chlorophenyl)-1-pentene | 1.5 g | C(#N)C(=C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])O)C(C(C)(C)C)=O | C14H13ClN2O4
reactant | THF | C1CCOC1 | C4H8O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 2-Cyano-4,4-Dimethyl-1-Oxido-3-Oxo-1-(2-Nitro-4-Chlorophenyl)-1-Pentene Lithium Salt | 1.25 g | [Li+].C(#N)C(=C(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])[O-])C(C(C)(C)C)=O | InChI=1S/C14H13ClN2O4.Li/c1-14(2,3)13(19)10(7-16)12(18)9-5-4-8(15)6-11(9)17(20)21;/h4-6,18H,1-3H3;/q;+1/p-1
